US03943154
3-(4-acetamidobenzenesulfonyl)acrylonitrile, prepared as described in the aforesaid U.S. Pat. No. 3,541,119, is nitrated at about room temperature in a mixture of nitric acid and concentrated sulfuric acid for about two hours, and thereafter drowned in ice water. The 2-cyanovinyl 4-acetamido-3-nitrophenyl sulfone recovered is hydrolyzed in a mixture of dilute hydrochloric acid and ethanol to give 2-cyanovinyl 4-amino-3-nitrophenyl sulfone. 25.3 g (0.1 mol) of this material is carefully dried and is dispersed in 500 ml chloroform and 11.2 g 1,4-diaza-[2.2.2]octane is added thereto. A chloroform solution of difluoromethanesulfonyl chloride in about 10% excess is added to the stirred mixture of the substituted aminoarene and the acid acceptor at 50° C. The mixture is stirred at this temperature for 2 hours and is then maintained at room temperature for 2 days. After treatment with dilute HCl to remove the tertiary amine and unreacted starting material, and evaporation of the solvent, a crude material is obtained which is purified by recrystallization, giving 2-cyanovinyl 4-difluoroacetamido-3-nitrophenyl sulfone: ##SPC7##

reactant | 3-(4-acetamidobenzenesulfonyl)acrylonitrile | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C11H10N2O3S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2-cyanovinyl 4-amino-3-nitrophenyl sulfone | NC1=C(C=C(C=C1)S(=O)(=O)C=CC#N)[N+](=O)[O-] | C9H7N3O4S
